US04057583
Analogously to instructions given by A. Dornow and others (Chem. Brichte 97 (1964), page 2173-2178), 53 g (0.5 mole) of thiocarbohydrazide are dissolved in 500 ml of boiling water and 65 g (0.5 mole) of trimethylpyruvic acid are added slowly. A colorless precipitate is deposited, which is filtered off, washed with water and dried in vacuo at 50° C. 6-tert.-butyl-3-mercapto-4-amino-1,2,4-triazin-5(4H)-one is obtained from this reaction in almost quantitative yield.

reactant | thiocarbohydrazide | 0.5 mole, 53 g | NNC(=S)NN | CH6N4S
reactant | trimethylpyruvic acid | 0.5 mole, 65 g | CC(C(C(=O)O)=O)(C)C | C6H10O3
solvent | water | 500 ml | O | H2O
product | 6-tert.-butyl-3-mercapto-4-amino-1,2,4-triazin-5(4H)-one | quantitative yield | C(C)(C)(C)C=1C(N(C(=NN1)S)N)=O | C7H12N4OS
